US05180829
2,6-Diphenyl-3-methylpiperidin-4-yl Laurate
The general procedure of Example 1 is repeated using 22.8 g (85.2 mmol) of 2,6-diphenyl-3-methyl-4-hydroxypiperidine, 34 mL (85 mmol) of n-butyllithium (2.5M in hexanes) and 18.6 g (85.2 mmol) of lauroyl chloride. 25.0 g (65% yield) of the title compound is isolated after purification by LC (silica gel, ethyl acetate/hexane): mp 56°-59° C.

reactant | 2,6-diphenyl-3-methyl-4-hydroxypiperidine | 85.2 mmol, 22.8 g | C1(=CC=CC=C1)C1NC(CC(C1C)O)C1=CC=CC=C1 | C18H21NO
reactant | n-butyllithium | 85 mmol, 2.5M, 34 mL | C(CCC)[Li]
reactant | lauroyl chloride | 85.2 mmol, 18.6 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | 2,6-Diphenyl-3-methylpiperidin-4-yl Laurate | 25.0 g, 65% yield | C(CCCCCCCCCCC)(=O)OC1C(C(NC(C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C30H43NO2
